Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PmHx of large goiter/hypothyroidism, depression, HTN, 
and alcohol use who comes in presenting with altered mental 
status and leg weakness per her 2 daughters.  
At baseline she is alert and ambulatory with a cane. She lives 
with her daughter and goes to ___ day care every day. In 
___, she was treated with a Zpack for a respiratory 
infection but her cough hasn't really resolved. Over the last 
week she endorses the development of weakness and some 
intermittent shaking in both of her lower extremities as well as 
less energy. She doesn't have any other complaints. She denies 
fever, chills, HA, nausea, vomiting, diarrhea, constipation, 
abdominal pain, rash, dysuria.  
Her two daughters are with her. In additional the weakness, they 
say there mother has reported feeling off the last week as well. 
She has needed assistance going up the stairs at home as well 
which is unusual. She's also seemed more forgetful than normal 
and they think hasn't been taking her pills which they've found 
around the house (her daughter puts them in a pill box for her, 
but she typically takes them on her own). They also think her 
speech is more slurred/gravely. Appetitie has been okay but 
cough is still bad and seems to be bothering her.  
Only recent medication change (other than the fact that she 
hasn't been taking her meds the last week), is that her HCTZ was 
stopped last month due to urinary urgency/incontinence and she 
was transition to lisinopril - but per her daughters has not 
started it. They also report she isn't taking some dementia 
medication she is prescribed.  She saw her PCP ___ few days ago 
who felt she could not stand or walk unassisted. Some question 
of facial slurring and facial droop so sent to ER for further 
eval.  
.  
In the ED, initial VS: not recorded. CXR showed no acute 
process, CBC with mild anemia. Chem 7, UA, head CT unremarkable. 
She was given 1L NS and was able to eat some jello and broth. 
Admitted to ___ for further w/u. Transfer VS: 98.2F, 152/86, 89, 
20, 98%ra  
.  
Currently, pts only complaint is her leg weakness/shaking.  
 
Past Medical History:
DEPRESSION/ANIXETY  
HYPERTENSION - ESSENTIAL, UNSPEC  
DIVERTICULOSIS  
HYPOTHYROIDISM  
HYPERCHOLESTEROLEMIA  
ALCOHOL DEPENDENCE  
ARTHRALGIA - KNEE  
OSTEOPENIA  
Urinary incontinence  
Vitamin D deficiency  

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS - 97.9 134/77 81 20 97% 
GENERAL - elderly appearing, NAD
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG  
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
SKIN - no rashes or lesions  
LYMPH - no cervical LAD  

 
Pertinent Results:
CXR 
No acute cardiopulmonary process.

CT HEAD
1. No evidence of acute intracranial process. MRI exam may offer 
additional detail, if clinically indicated.  
2. Prominent sulci and ventricles, likely age-related 
involutional changes. 
3. Small vessel ischemic disease. 

___ 06:17AM BLOOD WBC-4.5 RBC-3.11* Hgb-9.9* Hct-29.6* 
MCV-95 MCH-31.7 MCHC-33.3 RDW-13.4 Plt ___
___ 06:17AM BLOOD Glucose-88 UreaN-15 Creat-0.7 Na-141 
K-3.9 Cl-107 HCO3-27 AnGap-11
___ 06:55PM BLOOD ALT-11 AST-17 AlkPhos-45 TotBili-0.5
___ 06:17AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.0 Iron-PND
___ 06:55PM BLOOD Vit___-___
___ 06:55PM BLOOD TSH-1.3
___ 07:04PM BLOOD Lactate-1.___ yo F with PmHx of large goiter/hypothyroidism, depression, 
HTN, and alcohol use who comes in presenting with subjective leg 
weakness and report of altered mental status in the last few 
days per her 2 daughters. 
. 
# Leg Weakness/AMS:  
No clear etiology was found. CT head was normal. No infectious 
process was found (negative CXR and UA). Labs were normal 
(including TSH, B12). She had no focal weakness on exam.  She 
was not noted to have slurred speech or confusion.  A ___ consult 
worked with the patient and found her to be safe discharge home 
with ___ and OT services. There was a concern that her 
medications may be contributing to her weakness or alterned 
mental status at home. Her trazodone dose was lowered to 50mg 
PRN. She will follow up with her PCP for further medication 
adjustments prn.
.
# Hypothyroidism:  
Has large goiter. Has not been on levothyroxine per recent ___ 
records.  TSH was 1.3.
. 
# HTN:  
The patient had been off HCTZ and had not started lisinopril. 
Lisinopril was started at discharge.
.
# Anemia
The patient has a baseline Hct around 36.  Her Hct 33 on 
admission, and 29 after a liter of fluid which appeared 
dilutional. She was guaiac negative and showed no clinical signs 
of bleeding. Iron studies showed a ferritin of 284.  
.
#Cough 
The patient did not appear to be coughing during her 
hosptilization.  Albuterol was continued.  CXR showed no acute 
processes.  If symptoms were to persist,she may require further 
workup.
 
Medications on Admission:
Sertraline (ZOLOFT) 25 mg Oral Tablet 1 q am  
Trazodone 50 mg Oral Tablet take 4 tablets AT BEDTIME  
Lisinopril 10 mg Oral Tablet Take 1 tablet daily  
Nortriptyline 50 mg Oral Capsule take 2 capsules AT BEDTIME  
Simvastatin 10 mg Oral Tablet take 1 tablet EVERY EVENING  
Albuterol Sulfate 90 mcg Inh ___ inhalations every ___ hrs as 
needed  

 
Discharge Medications:
1. sertraline 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. nortriptyline 50 mg Capsule Sig: Two (2) Capsule PO at 
bedtime.  
4. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every six (6) hours.  
6. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,
 
You were admitted to the hospital with weakness. A workup found 
no medical reason for this. It may be related to medications and 
you should discuss these with your primary care physician. You 
were seen by the Physical Therapist and they recommended home 
services and a walker to help at home.

Medication Changes
Please reduce trazodone to one tablet nightly, or avoid if not 
needed for sleep
 
Followup Instructions:
___